US05036066
acb) 1.0 g of 3,4-dihydro-thieno[2,3-f][1,4]thiazepin-5(2H)-one was heated under reflux for 5 hours together with 15 ml of pyridine and 1.35 g of phosphorus pentasulfide. After cooling the mixture was poured into 90 ml of water and the crystals were removed by filtration. After chromatography on silica gel, the product was recrystallized from ethyl acetate. There was obtained 3,4-dihydro-thieno-[2,3-f][1,4]thiazepine-5(2H)-thione as yellow crystals of m.p. 138°-139°.

reactant | 3,4-dihydro-thieno[2,3-f][1,4]thiazepin-5(2H)-one | 1.0 g | S1CCNC(C2=C1C=CS2)=O | C7H7NOS2
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentasulfide | 1.35 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | water | 90 ml | O | H2O
product | 3,4-dihydro-thieno-[2,3-f][1,4]thiazepine-5(2H)-thione | S1CCNC(C2=C1C=CS2)=S | C7H7NS3
